US05756507
Step 7.1C 2-[2-[5-benzyloxy-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]isoindole-1,3-dione
To a solution of 2-[2-(5-benzyloxy-2-bromo-1H-indol-3-yl)ethyl]isoindole-1,3-dione (500 mg in a mixture of 6 mL ethanol and 16 mL toluene) was added 3,5-dimethylphenyl boronic acid (205 mg) followed by 2.7 mL of 1M sodium carbonate. To the stirred solution was added lithium chloride (156 mg) followed by tetrakis(triphenylphosphine)palladium (78 mg) and the mixture heated to reflux on an oil bath. After 2 hours the mixture was cooled to room temperature and concentrated in vacuo. Purification by flash chromatography on silica gel (hexane:methylene chloride:ethyl acetate, 15:8:1 then 12:8:1) gave the title compound (479 mg).

reactant | 2-[2-(5-benzyloxy-2-bromo-1H-indol-3-yl)ethyl]isoindole-1,3-dione | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)Br)CCN1C(C2=CC=CC=C2C1=O)=O | C25H19BrN2O3
reactant | 3,5-dimethylphenyl boronic acid | 205 mg | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 1M, 2.7 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 156 mg | [Cl-].[Li+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 78 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[2-[5-benzyloxy-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]isoindole-1,3-dione | 479 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN1C(C2=CC=CC=C2C1=O)=O | C33H28N2O3
